US05582764
36.9 g (0.1 mol) of 4-(4-bromocyclohexyl)-2,3',4'-trifluorobiphenyl was dripped into a mixture of 2.5 g (0.11 mol) of magnesium and 300 ml of THF to obtain a Grignard's reagent. This solution was then dripped into a 500 ml THF solution of 0.5 g of triethyl phosphate, 0.1 g of copper (I) iodide and 26.3 g (0.1 mol) of trans-1-(2-bromoethyl)-4-n-butyl-4-silacyclohexane. After a conventional after treatment, 4-(trans-4-(2-(trans-4-n-butyl-4-silacyclohexyl)ethyl)cyclohexyl)-2,3',4'-trifluorobiphenyl was obtained. The silacyclohexane rings of the product were a mixture of trans isomers and cis isomers. They were separated by means of chromatography to obtain 34.3 g (yield 72.6%) of the trans isomer.

reactant | 4-(4-bromocyclohexyl)-2,3',4'-trifluorobiphenyl | 0.1 mol, 36.9 g | BrC1CCC(CC1)C1=CC(=C(C=C1)C1=CC(=C(C=C1)F)F)F | C18H16BrF3
reactant | magnesium | 0.11 mol, 2.5 g | [Mg] | Mg
reactant | triethyl phosphate | 0.5 g | P(=O)(OCC)(OCC)OCC | C6H15O4P
reactant | trans-1-(2-bromoethyl)-4-n-butyl-4-silacyclohexane | 0.1 mol, 26.3 g | BrCC[C@@H]1CC[Si@H](CC1)CCCC | C11H23BrSi
catalyst | copper (I) iodide | 0.1 g | [Cu]I
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 300 ml | C1CCOC1 | C4H8O
product | 4-(trans-4-(2-(trans-4-n-butyl-4-silacyclohexyl)ethyl)cyclohexyl)-2,3',4'-trifluorobiphenyl | yield 72.6% | C(CCC)[Si@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC(=C(C=C1)C1=CC(=C(C=C1)F)F)F | C29H39F3Si
